US08633175B2
Step 2: 1,1-dimethylethyl 2,3-dihydro-1H-inden-2-yl[(3′-{4-[(4-methylphenyl)-sulfonyl]-4,5-dihydro-1,3-oxazol-5-yl}-4-biphenylyl)methyl]carbamate
To a solution of 1,1-dimethylethyl 2,3-dihydro-1H-inden-2-yl[(3′-formyl-4-biphenylyl)-methyl]carbamate (0.188 g; 0.44 mmol) and TosMIC (0.086 g; 0.44 mmol) in EtOH at room temperature was added NaCN (0.002 g; 0.04 mmol). The mixture was stirred 30 min, diluted with water and extracted with EtOAc (×3). combined organics were washed (water, brine), dried over Na2SO4 and concentrated in vacuo affording the title compound as a colorless gum, used without further purification. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.35 (s, 9H), 2.41 (s, 3H), 2.99 (d, J=8.38 Hz, 4H), 4.50 (br. s., 2H), 5.65 (dd, J=5.98, 1.69 Hz, 1H), 5.96 (d, J=5.89 Hz, 1H), 7.07-7.18 (m, 5H), 7.25 (partially resolved dd, J=7.85 Hz, 1H), 7.28-7.34 (m, 2H), 7.40 (unresolved dd, 1H), 7.46-7.52 (m, 3H), 7.57-7.64 (m, 2H), 7.68 (dd, J=8.03, 1.25 Hz, 1H), 7.74 (d, J=1.25 Hz, 1H), 7.83-7.90 (m, 2H).

reactant | 1,1-dimethylethyl 2,3-dihydro-1H-inden-2-yl[(3′-formyl-4-biphenylyl)-methyl]carbamate | 0.44 mmol, 0.188 g | C1C(CC2=CC=CC=C12)N(C(OC(C)(C)C)=O)CC1=CC=C(C=C1)C1=CC(=CC=C1)C=O | C28H29NO3
reactant | TosMIC | 0.44 mmol, 0.086 g | CC1=CC=C(C=C1)S(=O)(=O)C[N+]#[C-] | C9H9NO2S
reactant | NaCN | 0.04 mmol, 0.002 g | [C-]#N.[Na+]
solvent | EtOH | CCO | C2H6O
solvent | water | O | H2O
product | 1,1-dimethylethyl 2,3-dihydro-1H-inden-2-yl[(3′-{4-[(4-methylphenyl)-sulfonyl]-4,5-dihydro-1,3-oxazol-5-yl}-4-biphenylyl)methyl]carbamate | C1C(CC2=CC=CC=C12)N(C(OC(C)(C)C)=O)CC1=CC=C(C=C1)C1=CC(=CC=C1)C1C(N=CO1)S(=O)(=O)C1=CC=C(C=C1)C | C37H38N2O5S
